US07776857B2
Synthesis of 4-(4-(Fluoromethyl)thiophen-2-yl)N-(4-(7-methoxy-1,5-naphthyridin-4-yloxy)phenyl)phthalazin-1-amine
A round bottom flask was charged with (5-(4-(4-(7-methoxy-1,5-naphthyridin-4-yloxy)phenylamino)phthalazin-1-yl)thiophen-3-yl)methanol (71 mg, 140 μmol) and 2.8 mL DCM, and the mixture was cooled to 0° C. under nitrogen. (Diethylamino) trifluorosulfur (55 μl, 420 μmol) was added, and the mixture was stirred at 0° C. for 20 min and was then allowed to warm to RT. After another 0.5 h, saturated NaHCO3 was added and the mixture was stirred for 10 min. The solids were filtered, and the crude material was purified by silica gel chromatography, 90/10/1 DCM/MeOH/NH4OH in DCM, followed by reverse phase chromatography, Gilson, 10-90% 0.1% TFA/ACN in water, to provide the titled compound. MS: [M+H]=510.

reactant | (5-(4-(4-(7-methoxy-1,5-naphthyridin-4-yloxy)phenylamino)phthalazin-1-yl)thiophen-3-yl)methanol | 140 μmol, 71 mg | COC1=CN=C2C(=CC=NC2=C1)OC1=CC=C(C=C1)NC1=NN=C(C2=CC=CC=C12)C1=CC(=CS1)CO | C28H21N5O3S
reactant | (Diethylamino) trifluorosulfur | 420 μmol, 55 μl | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 2.8 mL | C(Cl)Cl | CH2Cl2
product | 4-(4-(Fluoromethyl)thiophen-2-yl)N-(4-(7-methoxy-1,5-naphthyridin-4-yloxy)phenyl)phthalazin-1-amine | FCC=1C=C(SC1)C1=NN=C(C2=CC=CC=C12)NC1=CC=C(C=C1)OC1=CC=NC2=CC(=CN=C12)OC | C28H20FN5O2S
